US07381719B2
Add drop wise via an addition funnel a solution of trifluoroacetic acid (5.7 mL) in dichloromethane (25 mL) to a stirred solution of 5-(5-carbamoyl-pyridin-2-yloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (2.1 g, 5.7 mmol) in dichloromethane (75 mL) at 0° C. Warm to room temperature and stir for 18 hours. Evaporate on a rotary evaporator, dissolve the residue in methanol (50 mL) and dichloromethane (50 mL), and then add MP-carbonate resin (7.9 g @ 2.87 eq/g). Agitate for 2 hours, filter, concentrate on a rotary evaporator, and dry under vacuum to yield 6-(1,2,3,4-tetrahydro-isoquinolin-5-yloxy)-nicotinamide (1.5 g, 5.6 mmol): HPLC=85% (50/50 to 90/10 ACN/(0.1% TFA in water), Zorbax SB-Phenyl 4.6 mm×15 cm×5 micron, λ=254 nm). 1H NMR (DMSO-d6, 300.00 MHz): 8.55 (d, 1H), 8.23 (dd, 1H), 8.01 (s, 1H), 7.46 (s, 1H), 6.95 (m, 5H), 3.90 (s, 2H), 2.85 (m, 2H), 2.38 (m, 2H),

reactant | trifluoroacetic acid | 5.7 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-(5-carbamoyl-pyridin-2-yloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 5.7 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)OC1=NC=C(C=C1)C(N)=O | C20H23N3O4
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 6-(1,2,3,4-tetrahydro-isoquinolin-5-yloxy)-nicotinamide | 5.6 mmol, 1.5 g | C1NCCC2=C(C=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C15H15N3O2
